US05157041
3.5 g of sodium borohydride were added to an ice-cooled stirred solution of 21 g of [N-(benzyloxycarbonyl)-L-phenylalanyl]methyl chloride in 500 ml of aqueous tetrahydrofuran. Stirring was continued for 0.5 hour and the solvent was removed by evaporation. The residue was partitioned between dichloromethane and water and then carefully acidified with concentrated hydrochloric acid. After working-up the organic phase gave a white solid which ran as two spots; Rf 0.4 and 0.5 (5% methanol/chloroform). The solids were extracted with boiling hexane until all of the higher running component had been extracted. The combined n-hexane extracts were evaporated and the residue was re-extracted with boiling n-hexane to remove a small amount (0.5 g) of the lower running component. In this manner there were obtained 11.5 g of 3(S)-(benzyloxyformamido)-1-chloro-4-phenyl-2(S)-butanol of melting point 151°-153° C. (from ethyl acetate/n-hexane).

reactant | sodium borohydride | 3.5 g | [BH4-].[Na+]
reactant | [N-(benzyloxycarbonyl)-L-phenylalanyl]methyl chloride | 21 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)CCl | C18H18ClNO3
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3(S)-(benzyloxyformamido)-1-chloro-4-phenyl-2(S)-butanol | 11.5 g | C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](CCl)O)CC1=CC=CC=C1 | C18H20ClNO3
